US06969716B2
A solution of 5-(3-bromo-4-fluorophenyl)-3-methylsulfanyl-[1,2,4]triazine and 3,5-difluoro-2-tributylstannylpyridine were coupled together by the method of Example 36 to give 3-(3,5-difluoropyridin-2-yl)-5-[3-(3,5-difluoropyridin-2-yl)-4-fluorophenyl]-[1,2,4]triazine: δH (500 MHz, CDCl3) 7.38-7.46 (3H, m), 8.44-8.48 (1H, m), 8.50 (1H, dd, J 2.3, 6.7 Hz), 8.52 (1H, d, J 2.3 Hz), 8.63 (1H, s), 9.77 (1H, s); m/z (ES+) 402.

reactant | 5-(3-bromo-4-fluorophenyl)-3-methylsulfanyl-[1,2,4]triazine | BrC=1C=C(C=CC1F)C=1N=C(N=NC1)SC | C10H7BrFN3S
reactant | 3,5-difluoro-2-tributylstannylpyridine | FC=1C(=NC=C(C1)F)[Sn](CCCC)(CCCC)CCCC
product | 3-(3,5-difluoropyridin-2-yl)-5-[3-(3,5-difluoropyridin-2-yl)-4-fluorophenyl]-[1,2,4]triazine | FC=1C(=NC=C(C1)F)C=1N=NC=C(N1)C1=CC(=C(C=C1)F)C1=NC=C(C=C1F)F | C19H8F5N5
